US06821992B1
N-[(3-Chloro-5-trifluoromethyl-2-pyridyl)methyl]-2-nitrophenylacetamide
To a stirred suspension of 2-nitrophenylacetic acid (0.36 g) in dry toluene (5 ml) at room temperature was added phosphoryl chloride (0.37 g) and stirring was continued overnight. Meanwhile a solution of the amine was prepared, (3-Chloro-5-trifluoromethyl-2-pyridyl)methylamine hydrochloride (0.49 g) in dry toluene (5 ml) and triethylamine (1.23 g) was stirred at room temperature for 1 hour and then filtered. The solid was washed with dry toluene and the combined filtrates were added dropwise to the above suspension of acid chloride with ice-cooling. After addition, the mixture was stirred at room temperature overnight. Dichloromethane was added and the mixture was washed with water. The aqueous layer was separated and back-extracted with dichloromethane. The combined organic extracts were washed with saturated sodium bicarbonate solution, then brine, then dried (MgSO4), and the solvent removed. The resulting residue was purified by silica gel chromatography eluting with ethyl acetate/light petroleum (b.p. 40-60° C.) to give the title product, m.p. 123-4° C.

reactant | 2-nitrophenylacetic acid | 0.36 g | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)O | C8H7NO4
reactant | phosphoryl chloride | 0.37 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | (3-Chloro-5-trifluoromethyl-2-pyridyl)methylamine hydrochloride | 0.49 g | Cl.ClC=1C(=NC=C(C1)C(F)(F)F)CN
reactant | triethylamine | 1.23 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-[(3-Chloro-5-trifluoromethyl-2-pyridyl)methyl]-2-nitrophenylacetamide | ClC=1C(=NC=C(C1)C(F)(F)F)CNC(CC1=C(C=CC=C1)[N+](=O)[O-])=O | C15H11ClF3N3O3
